US04285938
A solution of 2.3 g (0.00457 mole) of 6-chloro-7,8-methylenedioxy-1-(p-N,N-dimethylsulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide, 75 ml of methanol and 0.5 g of sodium hydroxide was stirred at room temperature for 2 hours, diluted with water and extracted several times with ethyl acetate. The extracts were washed with brine, dried and concentrated. The crude residue was chromatographed on 75 g of silica gel with a gradient of 1% to 4% of methanol in chloroform. The homogeneous cuts were combined and concentrated to give 1.4 g (75%) of 6-chloro-7,8-methylenedioxy-1-(p-N,N,-dimethylsulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine. A field description mass spectrogram showed an intense peak for m/e of 408 which is consistent with the structure. NMR and IR spectra also agreed with the structure.

reactant | 6-chloro-7,8-methylenedioxy-1-(p-N,N-dimethylsulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide | 0.00457 mole, 2.3 g | FC(C(=O)N)(F)F.ClC1=C2C(=CC=3C(CNCCC31)C3=CC=C(C=C3)S(N(C)C)(=O)=O)OCO2
reactant | methanol | 75 ml | CO | CH4O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | water | O | H2O
product | 6-chloro-7,8-methylenedioxy-1-(p-N,N,-dimethylsulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.4 g, 75% | ClC1=C2C(=CC=3C(CNCCC31)C3=CC=C(C=C3)S(N(C)C)(=O)=O)OCO2 | C19H21ClN2O4S
